US07943622B2
Step 2. Synthesis of 5-methyl-2-(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)benzo[d]oxazole hydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 4-(5-methylbenzo[d]oxazol-2-yl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate (212.9 mg, 0.502 mmol) in MeOH (1 mL). After stirring overnight, the reaction mixture was concentrated under reduced pressure and purified by HPLC (5 to 50% MeCN/0.1% TFA in H2O/0.1% TFA gradient). The fractions containing the desired product were brought to pH 12 with 1 N NaOH and were extracted with EtOAc (3×). The combined organics were dried over Na2SO4, filtered, and concentrated under reduced pressure. The material was dissolved in MeOH (1 mL) and 4 M HCl in 1,4-dioxane (1 equiv. HCl, 0.057 mL) was added. The mixture was concentrated under reduced pressure to give 60.8 mg (34%) of the desired product as the hydrochloride salt. LC-MS: RT=4.45 min, [M+H]+=325.1.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(5-methylbenzo[d]oxazol-2-yl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate | 0.502 mmol, 212.9 mg | CC=1C=CC2=C(N=C(O2)N2C(CN(CC2)C(=O)OC(C)(C)C)COC=2C=NC=CC2)C1 | C23H28N4O4
reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 0.057 mL, 1 equiv | O1CCOCC1 | C4H8O2
solvent | MeOH | 1 mL | CO | CH4O
product | 5-methyl-2-(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)benzo[d]oxazole hydrochloride | 60.8 mg, 34% | Cl.CC=1C=CC2=C(N=C(O2)N2C(CNCC2)COC=2C=NC=CC2)C1 | InChI=1S/C18H20N4O2.ClH/c1-13-4-5-17-16(9-13)21-18(24-17)22-8-7-20-10-14(22)12-23-15-3-2-6-19-11-15;/h2-6,9,11,14,20H,7-8,10,12H2,1H3;1H
